US07122555B2
(+)-(R,R,R)-1-(2-Amino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinolin-3-yl)-piperidin-2-one
(RS,RS,RS)-[9,10-Dimethoxy-3-(2-oxo-piperidin-1-yl)-1,3,4,6,7,11b-hexahydro-2H-pyrido[2,1-a]isoquinolin-2-yl]-carbamic acid tert-butyl ester (580 mg, 1.61 mmol) was dissolved in ethanol/heptane 3:2 (5 mL) and subjected to preparative HPLC (Chiralpak® AD column, heptane/ethanol 80:20).

reactant | (RS,RS,RS)-[9,10-Dimethoxy-3-(2-oxo-piperidin-1-yl)-1,3,4,6,7,11b-hexahydro-2H-pyrido[2,1-a]isoquinolin-2-yl]-carbamic acid tert-butyl ester | 1.61 mmol, 580 mg | C(C)(C)(C)OC(NC1CC2N(CCC3=CC(=C(C=C23)OC)OC)CC1N1C(CCCC1)=O)=O | C25H37N3O5
solvent | ethanol heptane | 5 mL | C(C)O.CCCCCCC
solvent | heptane ethanol | CCCCCCC.C(C)O
product | (+)-(R,R,R)-1-(2-Amino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinolin-3-yl)-piperidin-2-one | N[C@@H]1C[C@H]2N(CCC3=CC(=C(C=C23)OC)OC)C[C@H]1N1C(CCCC1)=O | C20H29N3O3
